US04530929
Preparation of 7-bromomethylisatin
The 7-methylisatin (16.1 g, 0.1 mole) is suspended in dichloroethane (2000 ml) and the suspension is heated and irradiated with a high intensity light source to the reflux point. Bromine (24.3 g, 0.15 mole) is added dropwise over a one hour period.

reactant | 7-methylisatin | 0.1 mole, 16.1 g | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | Bromine | 0.15 mole, 24.3 g | BrBr | Br2
solvent | dichloroethane | 2000 ml | ClC(C)Cl | C2H4Cl2
product | 7-bromomethylisatin | BrCC=1C=CC=C2C(C(NC12)=O)=O | C9H6BrNO2
